US07786165B2
ethyl 3-[4-({[4′-(2-ethoxyethoxy)-2′,3′,5′,6′-tetramethylbiphenyl-3-yl]methyl}amino)-2-fluorophenyl]propanoate
To a solution of 4′-(2-ethoxyethoxy)-2′,3′,5′,6′-tetramethylbiphenyl-3-carbaldehyde (0.300 g, 0.99 mmol) and ethyl 3-(4-amino-2-fluorophenyl)propanoate (0.194 g, 0.99 mmol) in 1,2-dichloroethane (7.0 mL) was added acetic acid (0.158 mL, 2.76 mmol), and the mixture was stirred at room temperature for 3 hr. Sodium triacetoxyborohydride (0.585 g, 2.76 mmol) was added, and the mixture was further stirred for 3 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=2/1) to give the title compound (0.400 g, yield 84%) as a colorless oil.

reactant | 4′-(2-ethoxyethoxy)-2′,3′,5′,6′-tetramethylbiphenyl-3-carbaldehyde | 0.99 mmol, 0.300 g | C(C)OCCOC1=C(C(=C(C(=C1C)C)C1=CC(=CC=C1)C=O)C)C | C21H26O3
reactant | ethyl 3-(4-amino-2-fluorophenyl)propanoate | 0.99 mmol, 0.194 g | NC1=CC(=C(C=C1)CCC(=O)OCC)F | C11H14FNO2
reactant | acetic acid | 2.76 mmol, 0.158 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 2.76 mmol, 0.585 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 7.0 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[4-({[4′-(2-ethoxyethoxy)-2′,3′,5′,6′-tetramethylbiphenyl-3-yl]methyl}amino)-2-fluorophenyl]propanoate | 0.400 g, yield 84% | C(C)OCCOC1=C(C(=C(C(=C1C)C)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)CCC(=O)OCC)F)C)C | C32H40FNO4
